US05888940
7-Amino-4-chloro-6-fluoro-2-methylbenzothiazole
6 g of iron powder were added to a suspension of 8 g (32 mmol) of 4-chloro-6-fluoro-2-methyl-7-nitrobenzothiazole in 100 ml of water and 9 ml of concentrated hydrochloric acid, which suspension had been heated to 80° C., after which the mixture was refluxed for 3 hours. 200 ml of ethyl acetate were then added to the reaction mixture. The solid was filtered off. The remaining organic phase was washed with water, dried over magnesium sulfate and finally evaporated down. Yield: 4.5 g.

reactant | 4-chloro-6-fluoro-2-methyl-7-nitrobenzothiazole | 32 mmol, 8 g | ClC1=CC(=C(C2=C1N=C(S2)C)[N+](=O)[O-])F | C8H4ClFN2O2S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | hydrochloric acid | 9 ml | Cl | ClH
catalyst | iron | 6 g | [Fe] | Fe
product | 7-Amino-4-chloro-6-fluoro-2-methylbenzothiazole | NC1=C(C=C(C=2N=C(SC21)C)Cl)F | C8H6ClFN2S
